US07612079B2
(2-Chloro-9H-purin-6-yl)-(3-nitro-phenyl)-amine
2,6-Dichloro-9H-purine (650 mg, 3.44 mmol) and 3-nitroaniline (1.9 g, 13.76 mmol) were stirred in 1-pentanol (5 mL) at 100° C. for 2 h under N2. The mixture was cooled and diluted with Et2O (40 mL). The precipitate was filtered and washed successively on a sinter with Et2O, PriOH, H2O, 10% aq Na2CO3, H2O, PriOH, and Et2O (2×20 mL each). It was then dried in vacuo to afford the title compound as a lemon-yellow powder (1.01 g, quant.). TLC (9:1 CH2Cl2/MeOH): RF=0.35.

reactant | 2,6-Dichloro-9H-purine | 3.44 mmol, 650 mg | ClC1=NC(=C2N=CNC2=N1)Cl | C5H2Cl2N4
reactant | 3-nitroaniline | 13.76 mmol, 1.9 g | [N+](=O)([O-])C=1C=C(N)C=CC1 | C6H6N2O2
solvent | 1-pentanol | 5 mL | C(CCCC)O | C5H12O
solvent | Et2O | 40 mL | CCOCC | C4H10O
product | (2-Chloro-9H-purin-6-yl)-(3-nitro-phenyl)-amine | 1.01 g | ClC1=NC(=C2N=CNC2=N1)NC1=CC(=CC=C1)[N+](=O)[O-] | C11H7ClN6O2
